US06437146B1
To a mixture of (±)-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoic acid (150 mg, 0.345 mmol), glycine ethyl ester hydrochloride (63 mg, 0.449 mmol) and diisopropylethylamine (0.078 ml, 0.449 mmol) in DMF (5 ml) was added 1-hydroxybenzotriazole (70 mg, 0.518 mmol) and 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (132 mg, 0.690 mmol). After stirring the resulting mixture at room temperature for 3 hours, the reaction mixture was diluted with EtOAc (30 ml), washed with 1N-hydrochloric acid, water, saturated sodium hydrogencarbonate solution, water and brine successively, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane:EtOAc, 2:1 elution) to give ethyl (±)-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}-benzoylamino}acetate (168.9 mg, 94%).

reactant | (±)-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoic acid | 0.345 mmol, 150 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C=C(C(=O)O)C=CC1 | C29H25NO3
reactant | glycine ethyl ester hydrochloride | 0.449 mmol, 63 mg | Cl.C(C)OC(CN)=O
reactant | diisopropylethylamine | 0.449 mmol, 0.078 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-hydroxybenzotriazole | 0.518 mmol, 70 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 0.690 mmol, 132 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | ethyl (±)-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}-benzoylamino}acetate | 168.9 mg, 94% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C=C(C(=O)NCC(=O)OCC)C=CC1 | C33H32N2O4
